### PR TITLE
[Merged by Bors] - feat(Algebra/Field/Power): weaken assumptions of Odd.neg_zpow

### PR DESCRIPTION
**Pull request by PrParadoxy**
The lemmas `Even.neg_zpow` and `Even.neg_one_zpow` are stated assuming
  `[DivisionMonoid α] [HasDistribNeg α]`. However, `Odd.neg_zpow` and
  `Odd.neg_one_zpow` currently assume the stronger `[DivisionRing α]`.
  
  This PR weakens the assumption of the `Odd` lemmas to match their `Even`
  counterparts.
  
The lemmas are currently the only content of Mathlib.Algebra.Field.Power.
That files exists in order to "define Field with minimal imports". But after this PR, 
Power.lean does not rely on Mathlib.Algebra.Field.Defs any more. We hence deprecate 
"Field.Power" and move the two statements to Mathlib.Algebra.Ring.Int.Parity.

  ---
  
  
  Examples:
  ```
  -- these all work:
  example (z : ℤ) (h : Even z) : (-1 : ℂ)^z = 1 := Even.neg_one_zpow h
  example (z : ℤ) (h : Even z) : (-1 : unitary ℂ)^z = 1 := Even.neg_one_zpow h
  example (z : ℤ) (h : Odd z) : (-1 : ℂ)^z = -1 := Odd.neg_one_zpow h
  
  -- but this fails without the PR:
  example (z : ℤ) (h : Odd z) : (-1 : unitary ℂ)^z = -1 := Odd.neg_one_zpow h
  ```

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Field/Power.lean [hunk 1]
```diff
@@ -18,19 +18,24 @@ beyond those needed for the basic definition.
...
 
-variable [DivisionRing α] {n : ℤ}
+variable [DivisionMonoid α] [HasDistribNeg α] {n : ℤ}
 
 theorem Odd.neg_zpow (h : Odd n) (a : α) : (-a) ^ n = -a ^ n := by
-  have hn : n ≠ 0 := by rintro rfl; exact Int.not_even_iff_odd.2 h .zero
-  obtain ⟨k, rfl⟩ := h
-  simp_rw [zpow_add' (.inr (.inl hn)), zpow_one, zpow_mul, zpow_two, neg_mul_neg,
-    neg_mul_eq_mul_neg]
+  obtain ⟨k, rfl⟩ := odd_iff_exists_bit1.mp h
```
Comment (eric-wieser) [inline Mathlib/Algebra/Field/Power.lean]:
```suggestion
  obtain ⟨k, rfl⟩ := h
```

File: Mathlib/Algebra/Field/Power.lean [hunk 2]
```diff
@@ -18,19 +18,24 @@ beyond those needed for the basic definition.
...
+  cases k with
+  | ofNat k =>
+    rw [Int.ofNat_eq_natCast]
+    norm_cast
+    simp [pow_add]
+  | negSucc k =>
+    simp_rw [Int.negSucc_eq, show 2 * -(↑k + 1) + (1 : ℤ) = - (1 + k*2) by grind,  _root_.zpow_neg]
```
Comment (eric-wieser) [inline Mathlib/Algebra/Field/Power.lean]:
```suggestion
    simp_rw [Int.negSucc_eq, show 2 * -(↑k + 1) + (1 : ℤ) = - (1 + k*2) by grind, _root_.zpow_neg]
```

File: Mathlib/Algebra/Field/Power.lean (hunk 1 above)
Comment (goliath-klein) [reply Mathlib/Algebra/Field/Power.lean]: Thanks, Eric!

In fact, we wrote it this way first. But I've changed it to use `odd_iff_exists_bit1`, because the shorter version feels like it's abusing the defeq of `Odd n`. Is there a simple explanation for why it's OK here?

Comment (eric-wieser) [reply Mathlib/Algebra/Field/Power.lean]: I don't think it's really abusing the defeq that much, and primarily my suggestion to write it this way is motivated by matching the previous proof.

**Comment by joelriou** [comment]
(About moving lemmas.)
> Should we implement this in the current or an additional PR?
Yes, could you move the lemmas to `Int.Parity` and deprecate `Field.Power` in this PR?

**Comment by goliath-klein** [comment]
-awaiting-author

**Comment by joelriou** [comment]
Thanks!

bors merge
